US05236958
A 50.1 g (1.67 moles) quantity of paraformaldehyde was dissolved in 60 ml of water with heating, and a solution of 7.04 g (14.7 mmoles) of 3-formyl-2-hydroxy-5-nitrobenzyltriphenylphosphonium chloride in 100 ml of dimethylsulfoxide was added thereto, giving a homogeneous solution. Thereafter, a 12N aqueous solution of sodium hydroxide was gradually added to the solution at room temperature and the reaction was effected for 11 hours. A 260 ml quantity of water was added to the reaction mixture and the precipitated crystals of triphenylphosphine oxide were separated by filtration. The filtrate obtained was neutralized with diluted hydrochloric acid, followed by extraction with ether. The liquid extract was concentrated and the residue was recrystallized using chloroform, giving 1.23 g (yield: 3%) of 5-nitro-3-vinylsalicylaldehyde as yellow crystals.

reactant | paraformaldehyde | C=O | CH2O
reactant | 3-formyl-2-hydroxy-5-nitrobenzyltriphenylphosphonium chloride | 14.7 mmoles, 7.04 g | [Cl-].C(=O)C=1C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-])O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 60 ml | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-nitro-3-vinylsalicylaldehyde | 1.23 g, yield: 3% | [N+](=O)([O-])C1=CC(=C(C(C=O)=C1)O)C=C | C9H7NO4
